US04197296
11α-Amino-2β-ethoxy-17-methylene-5α-androstan-3α-ol
Sodium (2.7 g) was added portionwise to a stirred and refluxing solution of 2β-ethoxy-3α-hydroxy-17-methylene-5α-androstan-11-one 11-oxime (1.7 g) in propanol (100 ml) under nitrogen. The cooled reaction mixture was diluted with water and the precipitated solid (1.43 g) was collected by filtration. A portion of this material (300 mg) was purified by partitioning between 2 N-hydrochloric acid and ether when the insoluble hydrochloride which precipitated was collected by filtration and again partitioned between ether and 2 N-sodium hydroxide solution. The organic layer was washed, dried (Na2SO4) and evaporated to give the title compound as a froth (180 mg), [α]D +1.6°.

reactant | Sodium | 2.7 g | [Na] | Na
reactant | 2β-ethoxy-3α-hydroxy-17-methylene-5α-androstan-11-one 11-oxime | 1.7 g | C(C)O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC([C@@H]3[C@]2(C1)C)=NO)=C)O | C22H35NO3
solvent | propanol | 100 ml | C(CC)O | C3H8O
solvent | water | O | H2O
product | 11α-Amino-2β-ethoxy-17-methylene-5α-androstan-3α-ol | N[C@H]1[C@@H]2[C@]3(C[C@@H]([C@H](C[C@@H]3CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)=C)O)OCC)C | C22H37NO2
